US06686363B2
A mixture of (2-methyl-4-nitrophenyl)acetonitrile (100 mg), benzyltriethylammonium chloride (129 mg), dibromoethane (73.4 μL) and 50% sodium hydroxide solution was heated at 70° C. for 1 hour. After quenching the reaction by the addition of concentrated hydrochloric acid at 0° C., and the mixture was extracted with ethyl acetate. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=2:1) of the residue gave 1-(2-Methyl-4-nitrophenyl)cyclopropane-1-carbonitrile (92.1 mg).

reactant | (2-methyl-4-nitrophenyl)acetonitrile | 100 mg | CC1=C(C=CC(=C1)[N+](=O)[O-])CC#N | C9H8N2O2
reactant | dibromoethane | 73.4 μL | BrC(C)Br | C2H4Br2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | benzyltriethylammonium chloride | 129 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(2-Methyl-4-nitrophenyl)cyclopropane-1-carbonitrile | 92.1 mg | CC1=C(C=CC(=C1)[N+](=O)[O-])C1(CC1)C#N | C11H10N2O2
